US07846915B2
5[(E)-2-(4-Hydroxyphenyl)-vinyl]benzene 1,3-diol (Resveratrol)
To a solution of 4-methoxy-benzyltriphenylphosphonium bromide (12.5 g) in anhydrous tetrahydrofuran (200 mL) at −78° C. was added n-butyllithium (2.44 M, 1.0 equiv), and the resulting red solution was stirred under argon for 2-4 h. A solution of 3,5-dimethoxybenzaldehyde (4.5 g) in tetrahydrofuran was added dropwise over 30 min and the mixture stirred for 6-15 h. The resulting cream suspension was poured into water and extracted with dichloromethane. The organic phase was washed with water, and removal of the solvent in vacuo afforded an oil. The oil was separated by flash column chromatography (49:1 hexane/ethyl acetate). The cis-stilbene eluted first as a clear oil followed by the trans isomer as a colorless solid or oil. Overall yield: 91%. To a solution of the trans isomer (3.1. g) in anhydrous dichloromethane (150 mL) at −78° C. was added (dropwise) boron tribromide (1.0 M, 34.5 mL), and the resulting red solution was stirred under argon for 30 min. The solution was poured into water and extracted with dichloromethane. The organic phase was washed with water, and removal of the solvent in vacuo afforded an oil, which was separated by flash column chromatography (1:1 hexane/ethyl acetate) to afford a colorless solid (2.26 g, 86%): mp 260° C.

reactant | 4-methoxy-benzyltriphenylphosphonium bromide | 12.5 g | [Br-].COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-butyllithium | 2.44 M, 1.0 equiv | C(CCC)[Li]
reactant | 3,5-dimethoxybenzaldehyde | 4.5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5[(E)-2-(4-Hydroxyphenyl)-vinyl]benzene 1,3-diol | 2.26 g, 86% | OC1=CC=C(C=C1)/C=C/C=1C=C(C=C(C1)O)O | C14H12O3
